US07157487B2
(Step 3) Synthesis of 4-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)-1-butanol
In ethanol (200 ml) were suspended (Z)-(2S,4S)-2-(4-benzyloxy-2-butenyloxymethyl)-1-(tert-butoxycarbonyl)-4-fluoropyrrolidine (4.58 g, 12.1 mmol) and 20% palladium hydroxide (4.0 g). The resulting suspension was subjected to catalytic hydrogenation at room temperature under normal pressure for 14 hours. The catalyst was then filtered off and the filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 100 g), whereby from chloroform/acetone (10/1) eluate fractions, the title compound (2.42 g, 67%) was obtained as a colorless oil.

reactant | (Z)-(2S,4S)-2-(4-benzyloxy-2-butenyloxymethyl)-1-(tert-butoxycarbonyl)-4-fluoropyrrolidine | 12.1 mmol, 4.58 g | C(C1=CC=CC=C1)OC\C=C/COC[C@H]1N(C[C@H](C1)F)C(=O)OC(C)(C)C | C21H30FNO4
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 4.0 g | [OH-].[Pd+2].[OH-]
product | 4-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)-1-butanol | 2.42 g, 67% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCCCO | C14H26FNO4
